US06310203B1
b) 3-(5-Ethylisoxazol-3-yl)-6-(2-pyridyl)methyloxy-1,2,4-triazolo[3,4-a]phthalazine
The title-compound was prepared from 6-chloro-3-(5-ethylisoxazol-3-yl)-1,2,4-triazolo[3,4-a]phthalazine and 2-pyridylcarbinol using the procedure given for Example 1, 1H NMR (360 MHz, CDCl3) δ 1.42 (3H, t, J=7.6 Hz, Me), 2.93 (2H, q, J=7.5 Hz, CH2), 5.78 (2H, s, CH2O), 6.83 (1H, s, Ar—H), 7.29 (1H, m, Ar—H), 7.75-7.85 (3H, m, 3 of Ar—H), 7.99 (1H, m, Ar—H), 8.33 (1H, d, J=7.8 Hz, Ar—H), 8.64-8.72 (2H, m, Ar—H); MS (ES+) m/e 373 [MH]+.

reactant | 6-chloro-3-(5-ethylisoxazol-3-yl)-1,2,4-triazolo[3,4-a]phthalazine | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=NOC(=C2)CC | C14H10ClN5O
reactant | 2-pyridylcarbinol | N1=C(C=CC=C1)CO | C6H7NO
product | 3-(5-Ethylisoxazol-3-yl)-6-(2-pyridyl)methyloxy-1,2,4-triazolo[3,4-a]phthalazine | C(C)C1=CC(=NO1)C1=NN=C2N1N=C(C1=CC=CC=C21)OCC2=NC=CC=C2 | C20H16N6O2
